US09119868B2
Step 4: 6-(N-(3-cyano-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A mixture of 6-(N-(4-bromo-3-cyanophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (100 mg, 0.172 mmol), potassium acetate (67.4 mg, 0.687 mmol), bis(pinacolato)diboron (87 mg, 0.343 mmol) and bis(tricyclohexylphosphine)palladium(II) dichloride (12.67 mg, 0.017 mmol) in 1,4-dioxane (2.0 ml) was maintained at 90° C. in a sealed tube under N2 overnight. The mixture was allowed to cool to room temperature, diluted with EtOAc, filtered through a pad of silic gel and celite and then concentrated to dryness to give the crude product as tan foam which was used for the next step without further purification. LCMS (m/z, ES+)=630 (M+H+).

reactant | 6-(N-(4-bromo-3-cyanophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.172 mmol, 100 mg | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)C#N | C27H21BrFN3O4S
reactant | potassium acetate | 0.687 mmol, 67.4 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.343 mmol, 87 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(tricyclohexylphosphine)palladium(II) dichloride | 0.017 mmol, 12.67 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Cl-].[Cl-].[Pd+2]
product | 6-(N-(3-cyano-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | C(#N)C=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C33H33BFN3O6S
